US06310095B1
N-[4-(N-(2-Morpholin-4-ylethyl)aminomethyl)-2-(2-methylphenyl)benzoyl ]methionine methyl ester
The desired compound was prepared using the method described in Example 403H starting with N-[4-formyl-2-(2-methylphenyl)benzoyl]methionine methyl ester, prepared as in Example 403G, and 4-(2-aminoethyl)morpholine. m/e (ESI) 500 (MH+)

reactant | N-[4-formyl-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=O)C1=C(C=CC=C1)C)=O)CCSC)=O | C21H23NO4S
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | N-[4-(N-(2-Morpholin-4-ylethyl)aminomethyl)-2-(2-methylphenyl)benzoyl ]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)CNCCN1CCOCC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C27H37N3O4S
